*****************************************************************
* NXP PSMN017_30KL
*
* Polarity N-Channel
* Ratings 30V/1.70E-02OHMS/5A
*
* Date Created Sun Mar 20 04:57:14 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN017_30KL DRAIN GATE SOURCE

LD DRAIN 5 9e-10
RLD2 DRAIN 5 2.2619448
RLD1 5 4 0.00021
LG GATE 1 7.26405326934776e-10
RLG GATE 1 1.82565416883602
LS SOURCE 8 2.54300481736652e-09
RLS2 SOURCE 8 6.39126280335239
RLS1 8 7 0.00309300481736652

RDS 7 4 300000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00939792925264656 TC=0.00530862331195182,2.16746304428918e-05
RBD 9 4 0.00510957493137768 TC=0.00530862331195182,2.16746304428918e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 10000000000
CGS 2 6 3.93699749369494e-10
RG 1 2 1.1213419710958

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	529.0
+ -10	552.5
+ -5	548.5
+ -4	544.5
+ -3	538.6
+ -2	529.1
+ -1	510.5
+ -0.5	487.5
+ -0.2	429.3
+ -0.1	393.0
+ 0	363.75
+ 0.1	332.6
+ 0.2	305.6
+ 0.5	247.1
+ 1	194.2
+ 2	146.4
+ 5	95.8
+ 10	66.7
+ 12	60.4
+ 20	46.7
+ 25	42.7



.MODEL MINT NMOS(Vto=1.93003925287769 Kp=7.2039e+01 Nfs=0 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Vmax=1000)

.MODEL DBD D(Bv=33.60 Ibv=2.50E-04 Rs=1E-6 Is=6.95410097803541e-13
+ N=1 M=0.49 VJ=0.5 Fc=0.5 Cjo=2.169e-10 Tt=1.578e-08)

.ENDS


