*******************************************************************************
*****************************************************************
* NXP PSMN050_80PS
*
* Polarity N-Channel
* Ratings 80V/4.78E-03OHMS/25A
*
* Date Created Wed Feb 17 11:54:58 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN050_80PS DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.026544
RLD1 5 4 0.00027
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 2.48302947765147e-09
RLS2 SOURCE 8 6.24052846135607
RLS1 8 7 0.000925435493350872

RDS 7 4 80000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.0295419189996358 TC=0.00825901617872343,-1.39651518178981e-05
RBD 9 4 0.00298685546246601 TC=0.00825901617872343,-1.39651518178981e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 5.98e-10
RG 1 2 1.99784058573213

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	587
+ -8	579
+ -6	567
+ -4	486
+ -2	364
+ 0	127
+ 0.1	124
+ 0.2	116
+ 0.5	100
+ 1	82
+ 2	62
+ 5	56
+ 10	52
+ 20	46
+ 25	44
+ 40	39



.MODEL MINT NMOS(Vto=3.7590379974497 Kp=2.6000e+01 Nfs=1110000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0 Ucrit=1e4 Diomod=1 Vfb=0 Leta=0 Weta=0
+ U0=600 Temp=0 Vdd=0 Xpart=0 Vmax=1000)

.MODEL DBD D(Bv=89.60 Ibv=2.50E-04 Rs=1E-6 Is=1.26645600726062e-13
+ N=1 M=0.6 VJ=0.5 Fc=0.5 Cjo=3.53e-10 Tt=1.8e-08)

.ENDS

*******************************************************************************
