*******************************************************************************
*****************************************************************
* NXP PSMN013_80YS
*
* Polarity N-Channel
* Ratings 80V/1.30E-02OHMS/10A
*
* Date Created Thu Mar 11 08:02:50 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN013_80YS DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 1600000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00734041018965948 TC=0.00851410211071261,-1.48896345836092e-05
RBD 9 4 0.000690231733977848 TC=0.00851410211071261,-1.48896345836092e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 1000000000000
CGS 2 6 2.092e-09
RG 1 2 0.0466337618175334

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	1752
+ -8	1734
+ -6	1745
+ -4	1798
+ -2	1454
+ 0	587
+ 0.1	418
+ 0.2	391
+ 0.5	333
+ 1	284
+ 2	220
+ 5	185
+ 10	166
+ 20	149
+ 25	143
+ 30	138
+ 40	131



.MODEL MINT NMOS(Vto=3.69274670524622 Kp=8.3071e+01 Nfs=2130000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0 Ucrit=1e4 Diomod=1 Vfb=0 Leta=0 Weta=0
+ U0=600 Temp=0 Vdd=0 Xpart=0 Vmax=1000)

.MODEL DBD D(Bv=89.60 Ibv=2.50E-04 Rs=1E-6 Is=1.27102792027399e-12
+ N=1 M=0.760000000000001 VJ=0.96 Fc=0.5 Cjo=1.3e-09 Tt=1.85e-08)

.ENDS

*******************************************************************************
