*******************************************************************************
*****************************************************************
* NXP PSMN026_80YS
*
* Polarity N-Channel
* Ratings 80V/2.60E-02OHMS/25A
*
* Date Created Wed Jan 27 06:03:21 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN026_80YS DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 53333333.3333333 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.0203651340489846 TC=0.00785242023764695,-1.22783976683519e-05
RBD 9 4 0.00184945209509834 TC=0.00785242023764695,-1.22783976683519e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 1.17453056632079e-09
RG 1 2 0.797840585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	950
+ -10	951
+ -8	950
+ -6	942
+ -4	954
+ -2	694
+ 0	301.5
+ 0.1	219
+ 0.2	206
+ 0.5	176
+ 1	138
+ 2	97
+ 5	88
+ 10	90
+ 20	81
+ 25	78
+ 30	75
+ 40	70



.MODEL MINT NMOS(Vto=3.81613404898463 Kp=7.4048e+01 Nfs=990000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0 Ucrit=1e4 Diomod=1 Vfb=0 Leta=0 Weta=0
+ U0=600 Temp=0 Vdd=0 Xpart=0 Vmax=1000)

.MODEL DBD D(Bv=89.60 Ibv=2.50E-04 Rs=1E-6 Is=4.31290229345736e-13
+ N=1 M=0.750000000000001 VJ=0.97 Fc=0.5 Cjo=6.9e-10 Tt=1.8e-08)

.ENDS

*******************************************************************************
