*****************************************************************
* NXP PSMNR90-30BL
*
* Polarity N-Channel
* Ratings 30V/1.100000E-003OHMS/120A
*
* Date Created Tue Nov 08 01:57:19 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMNR90-30BL DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 3.28320266346739e-09
RLS2 SOURCE 8 8.25158829423648
RLS1 8 7 0.000337481695870964

RDS 7 4 30000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.000240 TC=0.0180,-2.34507500607478E-06
RBD 9 4 0.00100623322801133 TC=0.0132989924411007,-2.34507500607478E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 1.25024192208088e-08
RG 1 2 1.07663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2	12000
+ -1	9545
+ -0.5	7524
+ -0.2	6339
+ -0.1	5936
+ 0	5533.5
+ 0.1	5009
+ 0.2	4537
+ 0.5	3493
+ 1	2671
+ 2	2095
+ 5	1598
+ 10	1335
+ 12	1283
+ 20	1169
+ 25	1125



.MODEL MINT NMOS(Vto=1.9150 Kp=5.100e+002 Nfs=105000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=34 Ibv=2.500000E-004 Rs=1E-6 Is=1.61150760584462e-11
+ N=1 M=0.58 VJ=0.59 Fc=0.5 Cjo=1.0474e-08 Tt=6.7e-08)

.ENDS

